US07618961B2
Ethyl (2-{[(3-cyanophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3-cyanobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (39.4 mg) with purity >90%. MS (pos) m/z 352.3.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-cyanobenzenesulfonyl chloride | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
product | Ethyl (2-{[(3-cyanophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | C(#N)C=1C=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H13N3O4S2
